US04105776
Methylisothiocyanate (4 g) is added to a solution of 3-mercaptopropanoyl-L-proline (10.1 g) in a mixture of pyridine (250 ml) and 0.5 N sodium hydroxide (100 ml). The solution is kept at 40° for two hours and concentrated to dryness in vacuo. The residue is dissolved in water (100 ml), acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase is concentrated to dryness to yield 1-[3-[[(methylamino)thiocarbonyl]thio]propanoyl]-L-proline.

reactant | Methylisothiocyanate | 4 g | CN=C=S | C2H3NS
reactant | 3-mercaptopropanoyl-L-proline | 10.1 g | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | sodium hydroxide | 0.5 N, 100 ml | [OH-].[Na+]
product | 1-[3-[[(methylamino)thiocarbonyl]thio]propanoyl]-L-proline | CNC(=S)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C10H16N2O3S2
